US07915332B2
Preparation of 1,2,4,6-Tetraphenylpyridinium Tetrafluoroborate 27
A 500 mL round-bottomed flask equipped with a condenser was charged with 2,4,6-triphenyl-pyrylium tetrafluoroborate (22.4 g, 0.056 mole), aniline (5.8 g, 0.060 mole) and ethanol (200 mL). The resulting solution was magnetically stirred and refluxed under a nitrogen atmosphere for 6 hours. The solution was cooled to room temperature, and the product 27 precipitated as greenish-yellow, crystalline solid. The product was collected by filtration and dried in a vacuum oven at 100° C. (23 g, 87% yield). Mp=253° C.

reactant | 2,4,6-triphenyl-pyrylium tetrafluoroborate | 0.056 mole, 22.4 g | F[B-](F)(F)F.C1(=CC=CC=C1)C1=[O+]C(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1
reactant | aniline | 0.060 mole, 5.8 g | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 1,2,4,6-Tetraphenylpyridinium Tetrafluoroborate | 87% yield | F[B-](F)(F)F.C1(=CC=CC=C1)[N+]1=C(C=C(C=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H22N.BF4/c1-5-13-23(14-6-1)26-21-28(24-15-7-2-8-16-24)30(27-19-11-4-12-20-27)29(22-26)25-17-9-3-10-18-25;2-1(3,4)5/h1-22H;/q+1;-1
